US06136821
6-Amino-8-benzyl-1,7-naphthyridine
To a solution of 2-cyano-3-pyridylacetonitrile (2 g, 0.014 mol) in toluene (20 ml) is added benzylmagnesium bromide 8.4 ml, 2N in tetrahydrofuran, 0.17 mol) at ambient temperature. After 1 h the reaction is quenched with a saturated solution of ammonium chloride. The product is extracted with ethyl acetate and the organic layer washed with 2N NaOH and water. The product is purified by flash column chromatography on silica gel (10:3 toluene/acetone) affording the title compound. Mass M+H 236; mp 113-116° C.

reactant | 2-cyano-3-pyridylacetonitrile | 0.014 mol, 2 g | C(#N)C1=NC=CC=C1CC#N | C8H5N3
reactant | benzylmagnesium bromide | 2N, 8.4 ml | C(C1=CC=CC=C1)[Mg]Br
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-Amino-8-benzyl-1,7-naphthyridine | NC=1C=C2C=CC=NC2=C(N1)CC1=CC=CC=C1 | C15H13N3
